US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-butylbenzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (41 mg, 0.15 mmol), N,N-diisopropylethylamine (0.105 mL, 0.60 mmol), and HBTU (63 mg, 0.165 mmol) in 1.5 mL DMF was briefly warmed to approx. 50° C. to dissolve solids, then continued stirring at room temperature. After 10 minutes n-butylamine (0.022 mL, 0.225 mmol) was added and the reaction continued at room temperature for 16.5 hours. The reaction was added drop wise to a stirring mixture of 30 mL water containing 5 mL brine at room temperature, and the resulting precipitate filtered and rinsed with water. The damp solid was dissolved in 20% MeOH in CHCl3 and evaporated to a dry solid. The solid was triturated with an EtOAc/hexane mixture to give the title compound as a light beige solid (42 mg, 86%). 1H NMR (acetone-d6) δ: 8.13 (s, 1H), 7.62 (br. s., 1H), 7.53-7.55 (m, 1H), 7.26-7.30 (m, 2H), 7.13-7.20 (m, 1H), 5.74 (br. s., 2H), 4.29 (s, 2H), 3.65 (t, J=6.0 Hz, 2H), 3.38 (td, J=7.1, 5.7 Hz, 2H), 2.81 (t, J=6.0 Hz, 2H), 1.52-1.63 (m, 2H), 1.32-1.45 (m, 2H), 0.93 (t, J=7.3 Hz, 3H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.15 mmol, 41 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 0.60 mmol, 0.105 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.165 mmol, 63 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | n-butylamine | 0.225 mmol, 0.022 mL | C(CCC)N | C4H11N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-butylbenzamide | 42 mg, 86% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NCCCC)C=CC2 | C18H23N5O
